US06117873
e1) Dimethyl N-(7-Nitro-2,3-dimethoxyquinoxalin-5-ylmethyl)-α-aminoethylphosphonate
500 mg (1.9 mmol) of 5-aminomethyl-7-nitro-2,3-dimethoxyquinoxaline, 834 mg (3.7 eq.) of magnesium sulfate, 335 mg (1.3 eq.) of potassium carbonate and 0.214 ml (2 eq.) of acetaldehyde are stirred at room temperature for 7 hours in 15 ml of dichloromethane. The reaction mixture is filtered off and the filtrate is evaporated. A solution of 0.32 ml (1.2 eq.) of triethylamine, 0.182 ml of dimethyl phosphite and 0.36 ml (1.5 eq.) of trimethylchlorosilane in 10 ml of dichloromethane is stirred at 0° for one hour, and the residue is added to 10 ml of dichloromethane and stirred for 14 hours. Water is added to the reaction mixture and the organic phase is separated off. The aqueous phase is extracted twice with dichloromethane and the combined organic phases are dried over magnesium sulfate. The title compound is obtained as a yellow resin after evaporation of the solvent.

reactant | 5-aminomethyl-7-nitro-2,3-dimethoxyquinoxaline | 1.9 mmol, 500 mg | NCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H12N4O4
reactant | magnesium sulfate | 834 mg, 3.7 eq. | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | potassium carbonate | 335 mg, 1.3 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | acetaldehyde | 0.214 ml, 2 eq. | C(C)=O | C2H4O
reactant | triethylamine | 0.32 ml, 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | dimethyl phosphite | 0.182 ml | P(OC)(OC)[O-]
reactant | trimethylchlorosilane | 0.36 ml, 1.5 eq. | C[Si](Cl)(C)C | C3H9ClSi
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | Dimethyl N-(7-Nitro-2,3-dimethoxyquinoxalin-5-ylmethyl)-α-aminoethylphosphonate | [N+](=O)([O-])C1=CC(=C2N=C(C(=NC2=C1)OC)OC)CNC(C)P(OC)(OC)=O | C15H21N4O7P
